US06210761B1
Mixture of 20.0 g (79.3 mmol) of 4-ethoxy-2,3-difluoroiodobenzene [obtained by lithiating 4-ethoxy-2,3-difluorobenzene with sec-butyl lithium and then reacting with iodine], 18.9 g (118.9 mmol) of dihydroxy(3-fluorophenyl)borane [obtained by reacting a Grignard reagent, which was prepared from 3-fluorobromobenzene and magnesium, with trimethoxyborane and then hydrolyzing with hydrochloric acid], 21.9 g (158.6 mmol) of K2CO3, 2.0 g of 5% Pd—C, and 100 ml of mixed solvent of toluene/ethanol/ water (1/1/1) was heated to reflux for 13 hours. Subsequently, after the catalyst was filtered off, the mixture was subjected to extraction with toluene, and the organic layer thus obtained was washed with water thrice and then dried over anhydrous magnesium sulfate. The solvent was distilled off under a reduced pressure and the residue thus obtained was subjected to silica gel column chromatography (eluent: heptane/toluene=8/2) to obtain 17.3 g of a crude 4-ethoxy-2,3,3′-trifluorobiphenyl. (Yield: 86.2%)

reactant | 4-ethoxy-2,3-difluoroiodobenzene | 79.3 mmol, 20.0 g | C(C)OC1=C(C(=C(C=C1)I)F)F | C8H7F2IO
reactant | 4-ethoxy-2,3-difluorobenzene | C(C)OC1=C(C(=CC=C1)F)F | C8H8F2O
reactant | sec-butyl lithium | C(C)(CC)[Li]
reactant | iodine | II | I2
reactant | dihydroxy(3-fluorophenyl)borane | 118.9 mmol, 18.9 g | OB(C1=CC(=CC=C1)F)O | C6H6BFO2
reactant | 3-fluorobromobenzene | FC=1C=C(C=CC1)Br | C6H4BrF
reactant | magnesium | [Mg] | Mg
reactant | trimethoxyborane | COB(OC)OC | C3H9BO3
reactant | hydrochloric acid | Cl | ClH
reactant | K2CO3 | 158.6 mmol, 21.9 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd—C | 2.0 g | [Pd] | Pd
solvent | heptane toluene | CCCCCCC.C1(=CC=CC=C1)C
solvent | toluene ethanol water | C1(=CC=CC=C1)C.C(C)O.O
product | 4-ethoxy-2,3,3′-trifluorobiphenyl | 17.3 g, Yield: 86.2% | C(C)OC1=C(C(=C(C=C1)C1=CC(=CC=C1)F)F)F | C14H11F3O
